US20010018525A1
Step 1 3,5-Bis-(3,5-dimethylphenyl)4-methoxymethoxybenzoic acid ethyl ester
To a solution of KC2CO3 (11.39 g, 82.41 mmol) in 41 min H2O was added 280 mL dioxane, a 2:1 mixture of 3-bromo-4-methoxymethoxy-5-iodobenzoic acid ethyl ester and 3,5-dibromo-4-methoxymethoxybenzoic acid ethyl ester (4.85 g, 13.74 mmol) and 3-methylphenyl boronic acid (4.1 g, 27.47 mmol) at room temperature. The reaction was degassed and 1,1l′-bis(diphenylphosphino)ferroceneldichloropalladium(II), complex with CH2Cl2 (224 mg, 0.248 mmol) was added. The reaction was stirred for 2 d then more of the catalyst was added (56 mg, 0.0687 mmol). The reaction was stirred for one more day and the reaction was worked up as in Step 1 of Example 135 to give crude material that was subjected to flash column chromatography (5% EtOAc:95% Hexanes). The major product from the column was further purified by prep HPLC to give 1.44 g, 23% of a white solid. 1H NMR (CDCl3) δ1.33 (t, J=8.18 Hz, 3H); 2.37 (s, 12 H); 2.69 (s, 3H), 4.33-4.40 (m, 4H); 6.97 (s, 2H); 7.20 (m, 4H); 7.97 (s, 2H).

reactant | 3-bromo-4-methoxymethoxy-5-iodobenzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)I)OCOC)Br)=O | C11H12BrIO4
reactant | 3,5-dibromo-4-methoxymethoxybenzoic acid ethyl ester | 13.74 mmol, 4.85 g | C(C)OC(C1=CC(=C(C(=C1)Br)OCOC)Br)=O | C11H12Br2O4
reactant | 3-methylphenyl boronic acid | 27.47 mmol, 4.1 g | CC=1C=C(C=CC1)B(O)O | C7H9BO2
reactant | CH2Cl2 | 0.248 mmol, 224 mg | C(Cl)Cl | CH2Cl2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 280 mL | O1CCOCC1 | C4H8O2
solvent | H2O | O | H2O
product | 3,5-Bis-(3,5-dimethylphenyl)4-methoxymethoxybenzoic acid ethyl ester | 1.44 g, 23% | C(C)OC(C1=CC(=C(C(=C1)C1=CC(=CC(=C1)C)C)OCOC)C1=CC(=CC(=C1)C)C)=O | C27H30O4
